US09029560B2
Preparation of 5-methyl-2-nitro-1-vinylbenzene (CA32)
The title compound was prepared as described in Example 67 using 1-chloro-4-methyl-2-nitrobenzene and tributyl(vinyl)stannane, further purified by flash column chromatography and reverse phase chromatography and isolated as a yellow liquid (1.46 g, 75%): 1H NMR (400 MHz, CDCl3) δ7.88 (d, J=8.3 Hz, 1H), 7.40 (d, J=1.2 Hz, 1H), 7.21 (ddd, J=11.0, 9.9, 8.2 Hz, 2H), 5.71 (dd, J=17.3, 1.0 Hz, 1H), 5.46 (dd, J=11.0, 1.0 Hz, 1H), 2.44 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 145.56, 144.31, 133.64, 133.05, 129.08, 128.98, 124.68, 118.52, 21.49; EIMS m/z 163 ([M]+).

reactant | 1-chloro-4-methyl-2-nitrobenzene | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | tributyl(vinyl)stannane | C(CCC)[Sn](C=C)(CCCC)CCCC
product | 5-methyl-2-nitro-1-vinylbenzene | CC=1C=CC(=C(C1)C=C)[N+](=O)[O-] | C9H9NO2
